### ISSUE TITLE
Spec-level lazy LZ77 matcher and correctness proof (BB1 Level 2)

### ISSUE THREAD

**Issue by kim-em** [kim-em/lean-zip#61]
# Spec-level lazy LZ77 matcher and correctness proof (BB1 Level 2)

**Session type**: implementation

## Current state

- Phase 4 Level 1 (greedy LZ77 + fixed Huffman) has a complete spec-level
  roundtrip: `deflateLevel1_spec_roundtrip'` in `Zip/Spec/DeflateEncode.lean`
- The greedy spec matcher `matchLZ77` is in `Zip/Spec/LZ77.lean` (442 lines)
  with its correctness proof `resolveLZ77_matchLZ77`
- No lazy LZ77 matcher exists — `matchLZ77Lazy` is not defined
- VERIFICATION.md Phase 4 says Levels 2–4 use lazy matching: "finds match
  M1, then checks `p+1` for a longer M2. If M2 is longer, emits
  `Literal data[p]; BackRef M2`; otherwise `BackRef M1`"
- All existing LZ77 infrastructure (`resolveLZ77`, `matchLength`,
  `findLongestMatch`, and their proofs) can be reused
- This work is fully independent of all open issues (#37, #43, #51, #52,
  #55, #58) — it adds new definitions and theorems without touching
  existing code
- Sorry count: 3 (unrelated)

## Background

The Level 1 roundtrip uses greedy matching: at each position, emit the
longest match or a literal. Level 2 uses lazy matching: find match M1,
then look ahead one position for match M2. If M2 is strictly longer,
emit a literal for the current position and use M2. This sometimes
produces better compression by avoiding short matches that prevent
longer ones.

The key insight for the proof: both strategies produce VALID symbol
streams — `resolveLZ77` reconstructs the original data regardless of
which match is chosen. The proof has the same invariant as the greedy
case (`data.take pos` accumulator), just with an extra branch.

### Correctness argument

At position `pos`, lazy matching does one of:

1. **No match at pos**: emit `Literal data[pos]`, advance to `pos + 1`.
   Same as greedy.

2. **Match M1 at pos, no better match at pos+1**: emit `Reference M1.len M1.dist`,
   advance to `pos + M1.len`. Same as greedy.

3. **Match M1 at pos, better match M2 at pos+1**: emit `Literal data[pos]`
   then `Reference M2.len M2.dist`, advance to `pos + 1 + M2.len`.
   This is the new case. The proof:
   - `Literal data[pos]` extends accumulator from `data.take pos` to
     `data.take (pos + 1)`.
   - `Reference M2.len M2.dist` is valid because `matchLength` verified
     the bytes match. By `take_append_copied_eq_take`, accumulator
     becomes `data.take (pos + 1 + M2.len)`.
   - IH applies with `pos' = pos + 1 + M2.len`.

### 1. Define `matchLZ77Lazy` (~40 lines)

Add to `Zip/Spec/LZ77.lean` after the existing `matchLZ77` section:

```lean
/-- Lazy LZ77 matching (Level 2): at each position, find the longest match,
    then check if a longer match exists at the next position. If so,
    emit a literal and use the longer match instead. -/
def matchLZ77Lazy (data : List UInt8) (windowSize : Nat := 32768) :
    List LZ77Symbol :=
  go data 0 windowSize
where
  go (data : List UInt8) (pos windowSize : Nat) : List LZ77Symbol :=
    if pos ≥ data.length then [.endOfBlock]
    else
      match findLongestMatch data pos windowSize with
      | some (len1, dist1) =>
        if len1 < 3 then
          .literal data[pos]! :: go data (pos + 1) windowSize
        else if pos + 1 < data.length then
          -- Lazy evaluation: check next position
          match findLongestMatch data (pos + 1) windowSize with
          | some (len2, dist2) =>
            if len2 > len1 then
              -- Better match at next position: emit literal + longer match
              .literal data[pos]! ::
                .reference len2 dist2 :: go data (pos + 1 + len2) windowSize
            else
              .reference len1 dist1 :: go data (pos + len1) windowSize
          | none =>
            .reference len1 dist1 :: go data (pos + len1) windowSize
        else
          .reference len1 dist1 :: go data (pos + len1) windowSize
      | none =>
        .literal data[pos]! :: go data (pos + 1) windowSize
  termination_by data.length - pos
  decreasing_by all_goals omega
```

The `decreasing_by` may need adjustment for the `len2 > len1` case
where `pos` advances by `1 + len2`. Since `len2 ≥ 3` (from
`findLongestMatch_len_ge`) and `pos + 1 < data.length`, we have
`pos + 1 + len2 ≤ data.length`, so `data.length - (pos + 1 + len2) <
data.length - pos`.

### 2. Prove `matchLZ77Lazy.go_correct` (~60-80 lines)

```lean
private theorem matchLZ77Lazy.go_correct (data : List UInt8)
    (pos windowSize : Nat) (hw : windowSize > 0)
    (hpos : pos ≤ data.length) :
    resolveLZ77 (matchLZ77Lazy.go data pos windowSize)
      (data.take pos) = some data
```

Same structure as `matchLZ77.go_correct` but with the extra case:
- Unfold `matchLZ77Lazy.go`, split on `pos ≥ data.length`
- Split on `findLongestMatch` result
- For the lazy case (M1 found, check M2):
  - If M2 > M1: literal step gives `data.take (pos + 1)`, then
    reference step uses `take_append_copied_eq_take` to get
    `data.take (pos + 1 + len2)`, then IH
  - If M2 ≤ M1: same as greedy case

### 3. Prove `resolveLZ77_matchLZ77Lazy` (~5 lines)

```lean
theorem resolveLZ77_matchLZ77Lazy (data : List UInt8)
    (windowSize : Nat) (hw : windowSize > 0) :
    resolveLZ77 (matchLZ77Lazy data windowSize) [] = some data := by
  show resolveLZ77 (matchLZ77Lazy.go data 0 windowSize)
    (data.take 0) = some data
  exact matchLZ77Lazy.go_correct data 0 windowSize hw (by omega)
```

### 4. Prove `matchLZ77Lazy_validSymbolList` (~20 lines)

```lean
theorem matchLZ77Lazy_validSymbolList (data : List UInt8)
    (windowSize : Nat) :
    ValidSymbolList (matchLZ77Lazy data windowSize)
```

Same pattern as `matchLZ77_validSymbolList`. Proof by unfolding `go`
and showing `.endOfBlock` only appears at the end.

### 5. Prove `matchLZ77Lazy_encodable` (~40-50 lines)

```lean
theorem matchLZ77Lazy_encodable (data : List UInt8)
    (windowSize : Nat) (hws : windowSize ≤ 32768) :
    (encodeSymbols fixedLitLengths fixedDistLengths
      (matchLZ77Lazy data windowSize)).isSome = true
```

Same pattern as `matchLZ77_encodable` in `DeflateEncode.lean`. Uses
`encodeLitLen_literal_isSome`, `encodeLitLen_endOfBlock_isSome`, and
`encodeLitLen_reference_isSome` with bounds from `findLongestMatch`.

### 6. Prove `matchLZ77Lazy_length_le` (~25 lines)

```lean
theorem matchLZ77Lazy_length_le (data : List UInt8) (windowSize : Nat) :
    (matchLZ77Lazy data windowSize).length ≤ 2 * data.length + 1
```

Note: lazy matching can emit literal + reference for a single position,
so the bound is `2 * data.length + 1` (not `data.length + 1` as for
greedy). In practice, this only happens when M2 > M1, and the reference
then skips at least 3 positions, so the actual bound is tighter. But
`2 * data.length + 1` suffices for the fuel constraint.

### 7. Compose `deflateLevel2_spec_roundtrip` (~15 lines)

```lean
theorem deflateLevel2_spec_roundtrip (data : List UInt8)
    (windowSize : Nat) (hw : windowSize > 0) (hws : windowSize ≤ 32768)
    (hsize : data.length < 5000000) :
    ∃ bits, encodeFixed (matchLZ77Lazy data windowSize) = some bits ∧
            decode bits = some data
```

Same pattern as `deflateLevel1_spec_roundtrip'` but using
`matchLZ77Lazy`. The size bound is smaller (5M instead of 10M) because
the symbol list can be up to 2x longer.

## Files to modify

| File | Action |
|------|--------|
| `Zip/Spec/LZ77.lean` | Add `matchLZ77Lazy` + proofs (~170-230 lines) |
| `Zip/Spec/DeflateEncode.lean` | Add `matchLZ77Lazy_encodable`, `matchLZ77Lazy_validSymbolList`, `deflateLevel2_spec_roundtrip` (~80-90 lines) |

## Verification

- `lake build` passes
- `lake exe test` passes
- Sorry count unchanged (3)
- No existing theorems modified
- `LZ77.lean` stays under 700 lines (~442 + 230 = ~672)
- `DeflateEncode.lean` stays under 700 lines (~534 + 90 = ~624)

## Done criteria

- `matchLZ77Lazy` defined and compiles
- `resolveLZ77_matchLZ77Lazy` proved (BB1 for lazy matching)
- `matchLZ77Lazy_validSymbolList` proved
- `matchLZ77Lazy_encodable` proved
- `deflateLevel2_spec_roundtrip` proved
- All builds and tests pass
- No changes to existing definitions or theorems

## Risk: termination proof complexity

The `decreasing_by` for the lazy case (`pos + 1 + len2`) may need
explicit `have` statements:
```lean
have hlen2 := findLongestMatch_len_ge data (pos + 1) windowSize len2 dist2 hfind2
have : pos + 1 + len2 ≤ data.length := by ...
```
If the termination checker is unhappy, add explicit `termination_by`
and `decreasing_by` with these bounds.

## Risk: `go_correct` proof length

If the proof gets too long (>100 lines), extract the lazy case into a
helper lemma:
```lean
private theorem lazy_case_correct ... :
    resolveLZ77 (.literal data[pos]! :: .reference len2 dist2 ::
      matchLZ77Lazy.go data (pos + 1 + len2) windowSize)
      (data.take pos) = some data
```

**Comment by kim-em** [comment]
Session: `7b44ae4c-04c0-4977-9121-d834a0001689` Branch: `agent/7b44ae4c`

**Comment by kim-em** [comment]
Claimed by session `1e6a5a84-64a1-4b68-932c-d1e2ea67e15d` on branch `agent/1e6a5a84`
